reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C-:3]#[O+:4].[C-:5]#[O+:6].[C:1]([O:2][H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9],59.64391657270012
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1](=[O:2])([H:7])[H:9].[C:3](#[O+:4])[C:5](=[C-:6][H:10])[H:8],79.2605405864926
[H:11][H:12].[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]=[O:6])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],52.1932114311505
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](/[C:2]([O:3][H:11])=[N:4]\[H:10])([H:7])([H:8])[H:9],44.022294915634
[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8]>>[N:1](=[C:5](/[N-:4][N+:3]#[C:2][H:7])[H:8])\[H:6],64.8629022793082
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:7][C:6]([H:13])=[O+:5][C-:4]1[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],20.238563035024796
[O:1]=[C:2]([C:3](=[C:4])[H:7])[C:5]#[C:6][H:8]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[C:6][H:8],0.2593535413795891
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:6]([C@:5]([C:3]([O:2][H:12])=[O:4])([O:7][H:15])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10],91.082133268237
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23>>[C:1]1([H:7])([H:8])[C:2][C@@:3]2([H:10])[C:4]([H:11])([H:12])[C@:5]1([H:13])[N:6]2[H:9],58.618128771271714
[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[O:5][C@@:6]1([O:7][H:9])[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],77.00521943201
[C:1]([C:2](/[C:3](=[C:4](/[C:5]([H:14])([H:16])[H:18])[H:15])[C:6](=[O:7])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:17]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],72.06633374866611
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:7]1([C:6]([C:4][O:5][H:12])([H:13])[H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],29.89521677323389
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:6]=[C:7]([H:14])[H:15],90.62411082442593
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([N:4]([C:5][O:6][H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],72.9438213210715
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[n:1]1([H:8])[c:2]([C:6](=[O:5])[H:9])[c:7]([H:10])[n:4][n:3]1,86.05443327806299
[N:1]1([H:7])/[C:2](=[C:3](/[C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[O:6]1>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],18.318525262921995
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])=[C:6]=[C:7]([H:9])[H:17],56.242919571798
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]([O:5][H:12])([H:14])[C:7]1([C:6][H:13])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],2.9982094956432093
[C:1](=[N+:2]1[C:3]([H:7])([H:10])[N:4][N:5]=[N:6]1)([H:8])[H:9]>>[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9],61.438463039153206
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]=[C:5]([C:6]#[C:7][H:15])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],100.25275406429522
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O+:1](=[C-:2][C:3]#[C:4][H:7])[C:5]#[N:6],96.33645079725201
[C:1]([C:2]([C:3][O:5][H:15])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([H:11])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],27.16044779456071
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:8])[H:9].[O:3]([H:7])[H:11],65.45711003148699
[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6]>>[O:1]([C:2](=[C:3]=[N+:4]=[N-:5])[H:6])[H:7],55.7842723893174
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[C:6]([O:7][H:16])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[O:4]=[C:5]([H:12])[H:13],110.688150876457
[N+:1](#[C-:2])[C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],39.205721778577
